US09079889B2
To a solution of tert-butyl (2R,3R,4S)-5-azido-3-(tert-butyldimethylsilyloxy)-1-hydroxy-4-methylpentan-2-ylcarbamate (1.0 equiv.) in pyridine (0.2 M) was added MsCl (1.3 equiv.) followed by DMAP (catalytic amount) at 0° C. The mixture was stirred at that temperature for 1 hour. The solution was diluted with ether and ethyl acetate (4:1), washed with aq. NaHSO4, sat. NaHCO3, brine, dried over magnesium sulfate, filtered, and concentrated. The residue was purified by silica gel column chromatography eluting with ethyl acetate and hexanes (1:3) to give (2R,3R,4S)-5-azido-2-(tert-butoxycarbonylamino)-3-(tert-butyldimethylsilyloxy)-4-methylpentyl methanesulfonate as the major isomer (5:2) in 90% yield. LC/MS=367.3 (M+H-Boc), Rt=0.81 min (Frac 65%-95% method).

reactant | tert-butyl (2R,3R,4S)-5-azido-3-(tert-butyldimethylsilyloxy)-1-hydroxy-4-methylpentan-2-ylcarbamate | 1.0 equiv. | N(=[N+]=[N-])C[C@@H]([C@H]([C@@H](CO)NC(OC(C)(C)C)=O)O[Si](C)(C)C(C)(C)C)C | C17H36N4O4Si
reactant | MsCl | 1.3 equiv. | CS(=O)(=O)Cl | CH3ClO2S
solvent | pyridine | 0.2 M | N1=CC=CC=C1 | C5H5N
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | ether | CCOCC | C4H10O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (2R,3R,4S)-5-azido-2-(tert-butoxycarbonylamino)-3-(tert-butyldimethylsilyloxy)-4-methylpentyl methanesulfonate | 90% yield | CS(=O)(=O)OC[C@H]([C@@H]([C@H](CN=[N+]=[N-])C)O[Si](C)(C)C(C)(C)C)NC(=O)OC(C)(C)C | C18H38N4O6SSi
